US05273999
Preparation of 2-[(5-Bromopentyl)oxy]benzenebutanoic Acid Methyl Ester
Using the procedure of example 108, 2-hydroxybenzenebutanoic acid methyl ester was converted into the title compound by alkylation with 1,5-dibromopentane, in 81% yield, as a colorless oil.

reactant | 2-hydroxybenzenebutanoic acid methyl ester | COC(CCCC1=C(C=CC=C1)O)=O | C11H14O3
reactant | 1,5-dibromopentane | BrCCCCCBr | C5H10Br2
product | 2-[(5-Bromopentyl)oxy]benzenebutanoic Acid Methyl Ester | 81% yield | COC(CCCC1=C(C=CC=C1)OCCCCCBr)=O | C16H23BrO3
